** sch_path: /home/tim/gits/gf180mcu_ocd_sc_rt12t3v3/xschem/gf180mcu_ocd_sc_rt12t3v3__clkinv_4.sch
.subckt gf180mcu_ocd_sc_rt12t3v3__clkinv_4 A Y VDD VSS
*.PININFO A:I Y:O VDD:I VSS:I
XM1 Y A VDD VDD pfet_03v3 L=0.28u W=2.57u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
XM2 Y A VSS VSS nfet_03v3 L=0.28u W=1.02u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=4
.ends
